2193-02-22 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2193-2-21**] 06:25 PM
 FEVER - 103.3
F - [**2193-2-21**] 08:00 PM
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2193-2-22**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-22**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.3
   Tcurrent: 39.2
C (102.6
   HR: 108 (95 - 112) bpm
   BP: 139/62(82) {118/43(59) - 179/93(107)} mmHg
   RR: 31 (21 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,130 mL
                                                                  1,866 mL
   PO:
             TF:
             13 mL
   IVF:
                                                                    850 mL
                                                                  1,513 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                  1,120 mL
   Urine:
                                                                    915 mL
                                                                  1,020 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -785 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 18 cmH2O
   SpO2: 97%
   ABG: ///25/
   Ve: 13.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 mg/dL
   3.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   57 mg/dL
   112 mEq/L
   149 mEq/L
        [image002.jpg]
                             [**2193-2-22**]  12:48 AM
                             [**2193-2-22**]  06:00 AM
   Cr
   3.4
   3.4
   Glucose
   162
   153
   Other labs: Lactic Acid:1.2 mmol/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.2 mg/dL
   MICRO:
   [1][**2193-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [2][**2193-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [3][**2193-2-21**]
   URINE
   URINE CULTURE-PENDING
   [4][**2193-2-21**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
GRAM STAIN (Final [**2193-2-22**]):
      [**11-3**] PMNs and <10 epithelial cells/100X field.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
   [5][**2193-2-21**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-PENDING
   [6][**2193-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   [7][**2193-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   Imaging: [**2193-2-21**] - CXR Preliminary Report !! WET READ !!  Very limited
   film, patient rotated and unable to sit straight. Small-moderate
   left effusion, retrocardiac opacity concerning for PNA vs atelectasis.
   [**2193-2-21**] - CT ABDOMEN: Evaluation is limited by absence of oral or
   intravenous contrast material, and patient body habitus.
   Visualized lung bases show moderate dependent bibasilar atelectasis,
   left
   greater than right, and diffuse ground-glass opacities, which are non-
   specific. Overall, aeration of the lung bases is improved compared to
   prior.
   Liver, pancreas, spleen, adrenal glands, and kidneys have unremarkable
   non- contrast appearance. Intra- abdominal loops of small bowel are
   within normal
   limits. Gastrostomy tube in the stomach is noted. There is no free
   intraperitoneal air. Trace ascites is seen throughout the abdomen,
   unchanged from prior exam.
   Apparent wall thickening, extending from the ascending colon to the
   splenic
   flexure is not significantly changed since previous exam, though wall
   thickening in the transverse colon may have slightly worsened.
   Pericolonic
   inflammatory stranding is not significantly changed. Wall thickening
   and pericolonic stranding is also seen to involve a segment of the
   sigmoid colon, which appears new in the interval.Uterus and adnexa are
   unremarkable. Urinary bladder is decompressed with Foley catheter in
   place. A rectal catheter is in place.
   S-shaped thoracolumbar scoliosis and associated degenerative changes
   stable.
   IMPRESSION: Limited study. Interval worsening of colitis extending from
   the
   ascending colon to the splenic flexure, with new area of involvement
   within the sigmoid colon. Etiology of the colitis may be due to
   infection or inflammation; given the extent of colonic involvement,
   ischemia is considered less likely.
   Assessment and Plan
   61 yo F with history of COPD, obesity hypoventilation syndrome, dCHF,
   DM2, HTN, who was recently admitted for hypoxic/hypercarbic resp
   failure s/p trach/peg, now readmitted to the MICU from rehab with
   fevers, bacteremia and abdominal pain.
   .
   # Fevers: Patient has several possible sources at this time. She is
   complaining of abdominal pain and has evidence of colitis, albeit
   unchanged from prior, on CT scan in the ED. LFT's are wnl, as are
   pancreatic enzymes. Given that she had been on multiple abx, most
   recently levofloxacin for a UTI, c diff is on the differential.
   Additionally, she is growing staph from her blood cultures, likely epi,
   and received vanco for this at [**Hospital1 664**]. Has received levoflox for 1 day
   for a dirty UA. The picc that she has in place is the same one that was
   placed here at [**Hospital1 1**] on [**2193-2-15**] prior to d/c. On last admission, sputum
   and urine grew yeast, mycolytic/fungal cultures were negative. [**First Name5 (NamePattern1) **]
   [**Last Name (NamePattern1) **] was isolated.
   - continue vanco for staph epi bacteremia
   - will need to pull picc and send tip for culture but will need better
   access first, if possible, midline. No indication for CVL at this time,
   patient is hemodynamically stable at this time.
   - Send for blood cultures tomorrow morning for surveillance; blood
   cultures x 2 pending from ED
   - Send for c diff
   - Send UA, urine culture
   - empiric treatment for pyelo for now, although no evidence of
   stranding on CT, not sensitive and patient cannot receive contrast at
   this time
   - continue levofloxacin for empiric treatment of pyelo, but can broaden
   if patient decompensates to aztreonam, given that she was admitted for
   some time here recently
   - patient received dose of flagyl in [**Last Name (LF) **], [**First Name3 (LF) 116**] continue here for now,
   can d/c if we isolate a source
   - check CXR and sputum cx
   - cooling blanket, tylenol prn
   .
   # Abdominal Pain: unclear- per [**Name (NI) 664**], was right flank, which is
   consistent with my exam here. CT here shows stable colitis and no
   evidence of pyelo but lower sensitivity for this. No evidence of
   billiary ductal dilitation or pancreatitis.
   - c diff, repeat UA
   - empiric treatment for pyelo
   .
   # Hypernatremia: Will need free water flushes through the peg plus [**1-11**]
   NS to replete free water deficit of 8.5L. Only received 1L NS in ED.
   Will give
 normal saline @ 200cc/hr x 2L overnight to start.
   - check sodium at 12am
   .
   # ARF: creatinine is actually trending down from last hospital day here
   (4.5, now 3.6). Initial insult was thought to be ATN and was on CRRT
   temporarily on last admission. Monitor UOP. Patient is free water down,
   so there may be a component of prerenal azotemia as well.
   - monitor UOP
   - free water repletion
   - renally dose meds, avoid nephrotoxins
   .
   # Chronic Respiratory Failure - on vent, seems comfortable. Will check
   CXR to ensure no new infiltrate.
   - MDI's, trach care, suctioning
   .
   # COPD - continue MDI's as above
   .
   # dCHF - is free water down, overall. Will need IVF. Watch sats and
   vent settings for evidence of pulmonary edema..
   .
   # DM2: insulin SS
   .
   # FEN: needs free water. replete lytes prn. Can try TF's but will
   likely need to hold given abd pain and unclear source of fever.
   .
   # PPX
   - DVT: SC heparin 7500 TID, PPI
   - Stress ulcer: PPI
   .
   # Access:
   - right sided picc
   .
   # Code: full; consent signed.
   .
   # Dispo: ICU
   [**Name (NI) 851**] [**Name (NI) **] (husband) - work: [**Telephone/Fax (1) 4053**], leave message. phone:
   [**Telephone/Fax (1) 4054**]
   .
   [**Hospital1 664**] [**Telephone/Fax (1) 4055**], Dr. [**Last Name (STitle) 47**] [**Last Name (NamePattern4) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2193-2-21**] 06:25 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);

2193-02-22 09:12:00 Physician Attending Progress Note
Chief Complaint: Fever, cdiff + after levoflox for dirty UA. Blood cxs
   = staph, not aureus. HD stable
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2193-2-21**] 06:25 PM
 FEVER - 103.3
F - [**2193-2-21**] 08:00 PM: cooling blanket. Pancultured.
   Started Vanc, levoflox, zosyn. R flank abd tenderness. CT [**Last Name (un) 42**]/pelvis
   non contrast: colitis worse in transverse colon, kidney and GB ok. Na
   155 in ED: 8 L free water deficit. cdiff +, flagyl switched to po. Drug
   rash exfoliating. Not tolerating TF.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Metronidazole - [**2193-2-22**] 12:00 AM
   Levofloxacin - [**2193-2-22**] 07:43 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-22**] 07:54 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-22**] 09:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.8
C (103.7
   Tcurrent: 39.8
C (103.7
   HR: 103 (95 - 112) bpm
   BP: 141/57(77) {118/43(59) - 179/93(107)} mmHg
   RR: 27 (21 - 31) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  1,130 mL
                                                                  2,573 mL
   PO:
             TF:
             13 mL
   IVF:
                                                                    850 mL
                                                                  1,940 mL
   Blood products:
   Total out:
                                                                  1,915 mL
                                                                  1,120 mL
   Urine:
                                                                    915 mL
                                                                  1,020 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                   -785 mL
                                                                  1,453 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.31/58/93/31
   Ve: 13.8 L/min
   Physical Examination
   Gen: obese female. Lying in bed, responsive, tremulous
   HEENT: pupils reactive
   Neck: trach
   CV: RR nl S1 and S2 [**4-15**] sys murmur
   Chest: good air movement no wheezes
   Abd: obese, diffuselt tender to deep palp right worse than left, no BS,
   + rebound and gaurding in R flank, not rigid yet
   Ext: diffuse erythema and desquamation
   Neuro: intermittently following simple commands
   Labs / Radiology
   8.6 g/dL
   294 K/uL
   153 mg/dL
   3.4 mg/dL
   25 mEq/L
   4.2 mEq/L
   57 mg/dL
   112 mEq/L
   149 mEq/L
   28.4 %
   12.7 K/uL
        [image002.jpg]
                             [**2193-2-22**]  12:48 AM
                             [**2193-2-22**]  06:00 AM
   WBC
   12.7
   Hct
   28.4
   Plt
   294
   Cr
   3.4
   3.4
   Glucose
   162
   153
   Other labs: Differential-Neuts:81.3 %, Lymph:13.0 %, Mono:2.9 %,
   Eos:2.4 %, Lactic Acid:1.2 mmol/L, Ca++:9.0 mg/dL, Mg++:1.6 mg/dL,
   PO4:3.2 mg/dL
   Imaging: CXR: rotated, ? LLL atelectasis
   CT [**Last Name (un) 42**]: LLL atelectasis, thickened colon
   Microbiology: cdiff +
   Blood cx: pend
   UA: dirty at OSH
   UCx: pend
   Spu: 2+ GPCocci clusters, 2+ GNR, [**10-29**] polys
   ECG: Low voltage, RBBB old, no STTW changes
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 COLITIS, OTHER (NOT CDIFF)
 HYPERNATREMIA (HIGH SODIUM)
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
    61 y/o F with hx of resp failure from OSA and COPD s/p trach and peg a
   few weeks back and hx of resolving drug rash presents with fever,
   bacteremia, UTI, abd pain, cdiff +
   Cdiff colitis: New rebound tenderness in R flank this am. cdiff +.
   Check KUB this am. Surgery consult. No bowel sounds.
   Po FLagyl, broaden if fails.
   HD stable
   Pain control with prn tylenol
   UTI: check Cx, levoflox
   Bacteremia: GPCocci: source: picc vs skin with desquamation and
   blistering. Change picc  to CVL. On Vanc by level
   Hyper Na: replete free water down peg, repeat this pm
   Renal: improving with hydration iv and down peg
   Vent: Put on rate, check VBG, increase Vt to 550 and Peep to 8
   COPD: on MDI
   Drug rash: continue skin care
   Remaining issues as per Housestaff Notes
   ICU Care
   Nutrition: TFs on hold, free water
   Glycemic Control: insulin ss
   Lines / Intubation:
   PICC Line - [**2193-2-21**] 06:25 PM
   Comments:
   Prophylaxis:
   DVT: sc hep 7500 TID
   Stress ulcer: PPI
   VAP:  chlorhex, HOB
   Communication:
   Code status: Full code
   Disposition: ICU
   Total time spent: 55 minutes
   Patient is critically ill
   ------ Protected Section ------
   Procedure Note:
   MDs: [**Doctor Last Name 1607**]/ Kasani/ [**Doctor Last Name 3824**]
   Indication: Hemodynamic monitoring / Sepsis
   Procedure:  US guided Left Subclavian CVC Seldinger technique.
   Technique: Sterile condition w/ chlorhexidine. Local anesthesia 10ml
   1%lido.  Using a seldinger technique the
    Left subclavian vein was canulated and a TLC was introduced in the
   usual fasion.
   Complications: None
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 1607**], MD
   on:[**2193-2-22**] 15:32 ------

2193-02-23 07:41:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
 MULTI LUMEN - START [**2193-2-22**] 12:38 PM
 PICC LINE - STOP [**2193-2-22**] 07:49 PM
 FEVER - 103.9
F - [**2193-2-22**] 08:00 PM
   Pt found to have C. diff colitis, now on po/pr vancomycin and IV
   flagyl. Concern for worsening abdominal exam including rebound
   tenderness. Surgery now following with serial exams. Also continues on
   IV vancomycin for GPC in blood cx and levaquin pending urine cx
   reports. Made NPO given C. diff infection. L subclavian placed and PICC
   pulled.
   Bolused 4L LR yesterday
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-2-22**] 07:43 AM
   Vancomycin - [**2193-2-22**] 10:45 AM
   Metronidazole - [**2193-2-23**] 12:23 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2193-2-22**] 01:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-23**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.9
C (103.9
   Tcurrent: 39
C (102.2
   HR: 106 (97 - 116) bpm
   BP: 94/50(60) {94/35(54) - 144/82(89)} mmHg
   RR: 28 (23 - 33) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                  7,930 mL
                                                                  4,083 mL
   PO:
             TF:
                                                                     13 mL
   IVF:
                                                                  6,987 mL
                                                                  3,523 mL
   Blood products:
   Total out:
                                                                  1,830 mL
                                                                    280 mL
   Urine:
                                                                  1,730 mL
                                                                    280 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  6,100 mL
                                                                  3,803 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (450 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 73
   PIP: 17 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: ///23/
   Ve: 18.8 L/min
   Physical Examination
   General: awake, alert, Able to mouth words.
   HEENT: EOMI, MM dry. No thrush. Trach c/d/i. No JVD.
   Lungs: Scattered rales.
   Heart: Tachycardic, SM@ LUSB.
   Abd: obese, soft, hypoactive BS, +diffuse TTP, no guarding but winces
   on tests of rebound
   Ext: no edema
   Skin: exfoliating macular rash. Blister on right wrist.
   Labs / Radiology
   303 K/uL
   9.0 g/dL
   151 mg/dL
   3.8 mg/dL
   23 mEq/L
   4.2 mEq/L
   57 mg/dL
   107 mEq/L
   144 mEq/L
   30.0 %
   14.6 K/uL
        [image002.jpg]
                             [**2193-2-22**]  12:48 AM
                             [**2193-2-22**]  06:00 AM
                             [**2193-2-22**]  06:36 PM
                             [**2193-2-23**]  02:47 AM
   WBC
   12.7
   14.6
   Hct
   28.4
   30.0
   Plt
   294
   303
   Cr
   3.4
   3.4
   3.6
   3.8
   Glucose
   162
   153
   135
   151
   Other labs: Differential-Neuts:81.3 %, Lymph:13.0 %, Mono:2.9 %,
   Eos:2.4 %, Lactic Acid:1.2 mmol/L, Ca++:8.3 mg/dL, Mg++:1.7 mg/dL,
   PO4:3.1 mg/dL
   Imaging: CXR [**2-22**] - AP PORTABLE CHEST: This study is markedly limited
   by patient positioning and
   large body habitus. A new left subclavian venous catheter can be traced
   to
   the level of the left brachiocephalic vein, after which it is
   obscured.
   Pneumothorax cannot be excluded on this study which does not include a
   large
   portion of the left hemithorax. Right PICC remains with termination in
   the
   SVC. Tracheostomy not grossly changed.
   OSH MICRO:
   [**2-20**] Blood Culture
 Coagulase negative Staph 1 set
   [**2-20**] Blood Culture
 No growth
   2/11Urine Culture
 Yeast (not C. albicans) 100K col/ml
   MICRO:
   [1][**2193-2-23**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [2][**2193-2-23**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2193-2-22**]
   CATHETER TIP-IV
   WOUND CULTURE-PENDING
   INPATIENT
   [4][**2193-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2193-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2193-2-21**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [7][**2193-2-21**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [8][**2193-2-21**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL {CLOSTRIDIUM DIFFICILE}
   INPATIENT
   [9][**2193-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [10][**2193-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   Assessment and Plan
   61 yo F with history of COPD, obesity hypoventilation syndrome, dCHF,
   DM2, HTN, who was recently admitted for hypoxic/hypercarbic resp
   failure s/p trach/peg, now readmitted to the MICU with sepsis, found to
   have C. diff colitis and coag neg staph bacteremia. HD stable.
   .
   # Sepsis
 Pt with multiple sources on infection including C. diff
   colitis and bacteremia. Also concern for UTI. Pt persistently febrile
   overnight. Requiring IVF boluses/no pressors
   - Continue IVF boluses based on HR, BP and UOP. Consider addition of
   low dose neosynephrine if UOP persistently low to maintain higher MAP
   for increased perfusion
   - Trend lactate
   - Treat infectious etiologies as below
   #. C. diff colitis
 Pt found to be C. diff + on admission, abd exam
   concerning for rebound but no evidence of perforation on abd CT. Exam
   stable overnight.
   - Appreciate ID recs, optimize regimen with PO and PR vancomycin in
   addition to IV flagyl
   - Minimize additional systemic antimicrobials in setting of C. diff
   - Appreciate Gen [**Doctor First Name **] recs, continue to monitor abd exam, high
   threshold for OR given pt significant comorbidities and high operative
   risk
   .
   # Coagulase neg Staph bacteremia
 1 set of cultures + from OSH.
   Surveillance cultures neg to date. Pt at risk for line related
   infection, PICC now DC
 tip culture pending
   - Continue Vancomycin, dose by level given rapid fluctuation of renal
   function
 give dose today for level 17
   - Monitor surveillance cultures
   .
   # ? UTI
 dirty UA from OSH, cultures with 100K yeast, unclear timing
   of culture in relation to abx administration, repeat cultures here
   pending
   - will continue levaquin for now and f/u on ID recs, prefer to minimize
   antimicrobials in setting of C.diff
   .
   # Acute on Chronic Renal Failure: On previous admission pt had ATN in
   setting of hypotension, Cr had improved 2.7, now rising despite IVF
   - monitor UOP
   - renally dose medications
   .
   # Hypernatremia: Resolved with free water repletion, continue to trend
   .
   # Chronic Respiratory Failure - on vent, follow VBGs, given high minute
   ventilation currently, will hold on attempting trach mask and rest on
   vent for now
   - MDI's, trach care, suctioning
   .
   # COPD - continue MDI's
   # dCHF - Watch sats and vent settings for evidence of pulmonary edema
   .
   # DM2: insulin SS
   ..
   # Skin: recovering from drug rash. Wound c/s.
   .
   # FEN: monitor lytes [**Hospital1 **], hold on TF for now, consider TPN
   .
   # PPX
   - DVT: SC heparin 7500 TID, PPI
   - Stress ulcer: PPI
   .
   # Access:  picc discontinued, L subclavian placed
   .
   # Code: full; consent signed.
   .
   # Dispo: ICU
   [**Name (NI) 851**] [**Name (NI) **] (husband) - work: [**Telephone/Fax (1) 4053**], leave message. phone:
   [**Telephone/Fax (1) 4054**]
   .
   [**Hospital1 664**] [**Telephone/Fax (1) 4055**], Dr. [**Last Name (STitle) 47**] [**Last Name (NamePattern4) **]
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2193-2-22**] 12:38 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);

2193-02-24 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 FEVER - 101.9
F - [**2193-2-23**] 07:45 AM
   patient with low UOP yesterday not responsive to IVF.  Started on low
   dose Neosynephrine to increase MAP to 70-75 to increase renal
   perfusion, no response.  Lactate increased to 3.4 yesterday afternoon.
   Patient received multiple boluses of IVF, total of 8L IVF since
   yesterday 8am.  Lactate down to 1.8 yesterday evening but increased now
   to 2.5.  HCT also showing +leukocytosis along with increasing HCT to
   38, suggesting hemoconcentration.  HCT repeated for confirmation.
   Allergies:
   Sulfa (Sulfonamides)
   Diarrhea; anal
   Pentothal (Intraven.) (Thiopental Sodium)
   Unknown;
   Codeine
   Nausea/Vomiting
   Wellbutrin (Oral) (Bupropion Hcl)
   Confusion/Delir
   Zosyn (Intraven) (Piperacillin Sodium/Tazobactam)
   Rash;
   Meropenem
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2193-2-23**] 08:00 AM
   Vancomycin - [**2193-2-23**] 12:04 PM
   Metronidazole - [**2193-2-24**] 12:17 AM
   Infusions:
   Phenylephrine - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2193-2-24**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.9
   Tcurrent: 38.7
C (101.7
   HR: 118 (99 - 125) bpm
   BP: 93/52(60) {93/46(60) - 137/88(100)} mmHg
   RR: 33 (26 - 33) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 65 Inch
             Total In:
                                                                 11,445 mL
                                                                  4,234 mL
   PO:
             TF:
   IVF:
                                                                  9,765 mL
                                                                  3,424 mL
   Blood products:
   Total out:
                                                                    441 mL
                                                                     30 mL
   Urine:
                                                                    441 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 11,004 mL
                                                                  4,204 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 60%
   RSBI Deferred: PEEP > 10
   PIP: 34 cmH2O
   SpO2: 97%
   ABG: ///20/
   Ve: 20.9 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   419 K/uL
   11.8 g/dL
   178 mg/dL
   4.3 mg/dL
   20 mEq/L
   5.1 mEq/L
   64 mg/dL
   102 mEq/L
   138 mEq/L
   38.2 %
   28.1 K/uL
        [image002.jpg]
                             [**2193-2-22**]  12:48 AM
                             [**2193-2-22**]  06:00 AM
                             [**2193-2-22**]  06:36 PM
                             [**2193-2-23**]  02:47 AM
                             [**2193-2-24**]  04:07 AM
                             [**2193-2-24**]  05:00 AM
   WBC
   12.7
   14.6
   30.2
   28.1
   Hct
   28.4
   30.0
   38.4
   38.2
   Plt
   294
   303
   409
   419
   Cr
   3.4
   3.4
   3.6
   3.8
   4.3
   4.3
   Glucose
   162
   153
   135
   151
   176
   178
   Other labs: Differential-Neuts:86.6 %, Lymph:8.9 %, Mono:2.9 %, Eos:0.6
   %, Lactic Acid:2.5 mmol/L, Ca++:7.9 mg/dL, Mg++:1.7 mg/dL, PO4:4.6
   mg/dL
   [1][**2193-2-23**]
   URINE
   URINE CULTURE-PENDING
   INPATIENT
   [2][**2193-2-23**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [3][**2193-2-22**]
   CATHETER TIP-IV
   WOUND CULTURE-PRELIMINARY
   INPATIENT
   [4][**2193-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [5][**2193-2-22**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   INPATIENT
   [6][**2193-2-21**]
   URINE
   URINE CULTURE-FINAL {YEAST}
   INPATIENT
   [7][**2193-2-21**]
   SPUTUM
   GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT
   [8][**2193-2-21**]
   STOOL
   CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL {CLOSTRIDIUM DIFFICILE}
   INPATIENT
   [9][**2193-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PENDING
   EMERGENCY [**Hospital1 **]
   [10][**2193-2-21**]
   BLOOD CULTURE
   Blood Culture, Routine-PRELIMINARY {GRAM POSITIVE COCCUS(COCCI)};
   Aerobic Bottle Gram Stain-FINAL; Anaerobic Bottle Gram Stain-FINAL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 COLITIS, OTHER (NOT CDIFF)
 HYPERNATREMIA (HIGH SODIUM)
 BACTEREMIA
 RESPIRATORY FAILURE, CHRONIC
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 IMPAIRED SKIN INTEGRITY
   61 yo F with history of COPD, obesity hypoventilation syndrome, dCHF,
   DM2, HTN, who was recently admitted for hypoxic/hypercarbic resp
   failure s/p trach/peg, now readmitted to the MICU with sepsis, found to
   have C. diff colitis and coag neg staph bacteremia. HD stable.
   .
   # Sepsis
 Pt with multiple sources on infection including C. diff
   colitis and bacteremia. Also concern for UTI. Pt persistently febrile
   overnight. Requiring IVF boluses/no pressors
   - Continue IVF boluses based on HR, BP and UOP. Consider addition of
   low dose neosynephrine if UOP persistently low to maintain higher MAP
   for increased perfusion
   - Trend lactate
   - Treat infectious etiologies as below
   #. C. diff colitis
 Pt found to be C. diff + on admission, abd exam
   concerning for rebound but no evidence of perforation on abd CT. Exam
   stable overnight.
   - Appreciate ID recs, optimize regimen with PO and PR vancomycin in
   addition to IV flagyl
   - Minimize additional systemic antimicrobials in setting of C. diff
   - Appreciate Gen [**Doctor First Name **] recs, continue to monitor abd exam, high
   threshold for OR given pt significant comorbidities and high operative
   risk
   .
   # Coagulase neg Staph bacteremia
 1 set of cultures + from OSH.
   Surveillance cultures neg to date. Pt at risk for line related
   infection, PICC now DC
 tip culture pending
   - Continue Vancomycin, dose by level given rapid fluctuation of renal
   function
 give dose today for level 17
   - Monitor surveillance cultures
   .
   # ? UTI
 dirty UA from OSH, cultures with 100K yeast, unclear timing
   of culture in relation to abx administration, repeat cultures here
   pending
   - will continue levaquin for now and f/u on ID recs, prefer to minimize
   antimicrobials in setting of C.diff
   .
   # Acute on Chronic Renal Failure: On previous admission pt had ATN in
   setting of hypotension, Cr had improved 2.7, now rising despite IVF
   - monitor UOP
   - renally dose medications
   .
   # Hypernatremia: Resolved with free water repletion, continue to trend
   .
   # Chronic Respiratory Failure - on vent, follow VBGs, given high minute
   ventilation currently, will hold on attempting trach mask and rest on
   vent for now
   - MDI's, trach care, suctioning
   .
   # COPD - continue MDI's
   # dCHF - Watch sats and vent settings for evidence of pulmonary edema
   .
   # DM2: insulin SS
   ..
   # Skin: recovering from drug rash. Wound c/s.
   .
   # FEN: monitor lytes [**Hospital1 **], hold on TF for now, consider TPN
   .
   # PPX
   - DVT: SC heparin 7500 TID, PPI
   - Stress ulcer: PPI
   .
   # Access:  picc discontinued, L subclavian placed
   .
   # Code: full; consent signed.
   .
   # Dispo: ICU
   [**Name (NI) 851**] [**Name (NI) **] (husband) - work: [**Telephone/Fax (1) 4053**], leave message. phone:
   [**Telephone/Fax (1) 4054**]
   .
   [**Hospital1 664**] [**Telephone/Fax (1) 4055**], Dr. [**Last Name (STitle) 47**] [**Last Name (NamePattern4) **]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2193-2-22**] 12:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points: Mrs [**Known lastname **] continues to need high amounts
   of fluid ( so far 8 L overnight alerady) for oliguria. She is also
   febrile to 101 with minute ventilation of nearly 20 L on current
   settings. Edema has worsened. Appreciate input from surgical
   colleagues. Lactate has also climbed with Rx to 2.7. She is now
   dependent on pressors.
   Exam notable for Tm 101.5 BP 110/55 HR 110  RR of 20-28 with sats of
   97% on 50% and 12 PEEP . massive anasarca with resolving skin exanthem.
   left SCL present. She is in pain on abdominal palpation but diffusely
   tender too. She remains capable of responding to commands.
   Labs notable for WBC 28.1 K , HCT of 38! , K 5.1 , Cr of 4.3 ( 3.8) ,
   lactate 2.9. CXR with left basal ASD/ atelectasis and
   cardiomegaly. cultures so far pos for C. Diff and GPC in blood.
   She has clinically worsened despite aggressive rescucitation. GI and ID
   input appreciated. We will increase dose of Vancomycin per G tube. We
   will also start IVIG Rx. She has features of developing end organ
   dysfunction ( renal failure, acidosis, respiratory needs that have
   escalated and shock) . Xigris infusion will be started to help with
   microcirculatory ischemia if surgery is not being planned at this
   time.  IR guided line for CVVH to be established as this will need to
   be started on account of massive anasarca and acidosis. Peep to be
   optimized to offset worsening abdominal distension.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 60 min
   ------ Protected Section ------
   Please disregard previous assessment and plan and physical exam.
   PE:
   Gen: mild distress, nods to yes and no questions, +abd pain
   CVS: +S1/S2, no m/r/g, tachycardic
   LUNGS: mild ronchi anterior lung fields
   ABD: decreased BS, +tenderness throughout, more pronounced on RUQ,
   difficult to assess rebound
   EXT: significant anasarca, +scaling rash on bilateral UE
   61 yo F with history of COPD, obesity hypoventilation syndrome, dCHF,
   DM2, HTN, who was recently admitted for hypoxic/hypercarbic resp
   failure s/p trach/peg, now readmitted to the MICU with sepsis, found to
   have C. diff colitis and coag neg staph bacteremia. HD stable.
   # Perforation:  Overnight Ms. [**Known lastname **] required continued boluses of
   IVF for low UOP and increasing lactate which was presumed [**2-11**] sepsis.
   This morning, surgery team was called regarding worsened status and
   recommendation was for repeat CT ABD/Pelvis which on admission was
   negative for perforation.  CT scan now showing significant
   perforation.  Surgery Team called STAT and have come to the bedside.
   Husband was notified and is pondering decision on surgical
   intervention.  Per the Surgery team, Ms. [**Known lastname **] is a poor surgical
   candidate and with poor survial.  [**Hospital 4110**] medical management will also
   likely lead to her demise.  Surgical Attending is going to call the
   husband to discuss surgical option.
   -- awaiting surgery recs.  If husband agrees then patient will go to OR
   immediately
   # Sepsis
 Component of C.diff colitis and Staph Epi bactermia.
   Currently, c.diff colitis has caused a perforation.  Awaiting possible
   surgery as above.
   - Continue IVF boluses based on HR, BP and UOP.
   - cont Neo
   - Levo at bedside
   - Trend lactate
   - Treat infectious etiologies as below
   #. C. diff colitis
 Perforation as above
   - hold PO and PR Vanco for now
   - cont IV Flagyl
   - f/u surgery recs as above
   # Coagulase neg Staph bacteremia
   -- cont Vanco IV
   # ? UTI
 dirty UA from OSH, cultures with 100K yeast, unclear timing
   of culture in relation to abx administration, repeat cultures here
   pending
   - stop Levaquin today
   # Acute on Chronic Renal Failure: On previous admission pt had ATN in
   setting of hypotension, Cr had improved 2.7, now rising despite IVF.
   Renal consulted.  CVVH line placed today in IR.
   - monitor UOP
   - renally dose medications
   - possible CVVH once stable
   # FEN: NPO
   # PPX
   - DVT: SC heparin 7500 TID, PPI
   - Stress ulcer: PPI
   # Access:  L subclavian placed, HD line
   # Code: full; consent signed.
   # Dispo: ICU
   [**Name (NI) 851**] [**Name (NI) **] (husband) - work: [**Telephone/Fax (1) 4053**], leave message. phone:
   [**Telephone/Fax (1) 4054**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 3823**] [**Last Name (NamePattern1) 3824**], MD
   on:[**2193-2-24**] 13:41 ------
References
   1. JavaScript:parent.POPUP(self,%22_WEBTAG=_1%22,640,400,50,50,1);
   2. JavaScript:parent.POPUP(self,%22_WEBTAG=_2%22,640,400,50,50,1);
   3. JavaScript:parent.POPUP(self,%22_WEBTAG=_3%22,640,400,50,50,1);
   4. JavaScript:parent.POPUP(self,%22_WEBTAG=_4%22,640,400,50,50,1);
   5. JavaScript:parent.POPUP(self,%22_WEBTAG=_5%22,640,400,50,50,1);
   6. JavaScript:parent.POPUP(self,%22_WEBTAG=_6%22,640,400,50,50,1);
   7. JavaScript:parent.POPUP(self,%22_WEBTAG=_7%22,640,400,50,50,1);
   8. JavaScript:parent.POPUP(self,%22_WEBTAG=_8%22,640,400,50,50,1);
   9. JavaScript:parent.POPUP(self,%22_WEBTAG=_9%22,640,400,50,50,1);
  10. JavaScript:parent.POPUP(self,%22_WEBTAG=_10%22,640,400,50,50,1);